US04156011
2-[4-(4-Chlorophenoxy)-phenoxy]-ethyl mesylate
2.6 g (0.0227 mol) of methanesulphonyl chloride are run over the course of 5 minutes, at about +10° C., into a solution of 6 g (0.0227 mol) of 2-[4-(4-chlorophenoxy)-phenoxy]-1-ethanol (CRL 40,293) in 11 ml of pyridine and the mixture is then stirred for 1 hour at ambient temperature. Thereafter the reaction mixture is poured onto ice and acidified to Congo Red with concentrated hydrochloric acid. After extracting the insoluble matter with ethyl acetate, washing the organic phase obtained with water and drying it over dry sodium sulphate, evaporation of the solvent gives 7.8 g of a white powder.

reactant | methanesulphonyl chloride | 0.0227 mol, 2.6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[4-(4-chlorophenoxy)-phenoxy]-1-ethanol | 0.0227 mol, 6 g | ClC1=CC=C(OC2=CC=C(OCCO)C=C2)C=C1 | C14H13ClO3
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 11 ml | N1=CC=CC=C1 | C5H5N
product | 2-[4-(4-Chlorophenoxy)-phenoxy]-ethyl mesylate | 7.8 g | S(C)(=O)(=O)OCCOC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H15ClO5S
